US05712225
N-Amino-N-(2-hydroxyethyl)-N'-(2 4-dichlorophenyl)thiourea
7.61 g (0.10 mol) 2-hydroxyethylhydrazine was dissolved in 100 mL methylene chloride at 0°-5° C. After dropwise addition of 10.2 g (0.10 tool) triethylamine, 20.4 g (0.10 mol) 2,4-dichlorophenylisothiocyanate dissolved in 70 mL methylene chloride was added over a period of 4 h. The reaction mixture was left to warm up to room temperature, stirred for a further 2 h, the precipitate filtered off, washed with methylene chloride and the desired compound isolated.

reactant | 2-hydroxyethylhydrazine | 0.10 mol, 7.61 g | OCCNN | C2H8N2O
reactant | triethylamine | 10.2 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorophenylisothiocyanate | 0.10 mol, 20.4 g | ClC1=C(C=CC(=C1)Cl)N=C=S | C7H3Cl2NS
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | N-Amino-N-(2-hydroxyethyl)-N'-(2 4-dichlorophenyl)thiourea | NN(C(=S)NC1=C(C=C(C=C1)Cl)Cl)CCO | C9H11Cl2N3OS
